US08614219B2
6.1 2-Pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one
To a suspension of 77.9 g (524.1 mmol) of 2H-azepin-7-amine, 3,4,5,6-tetrahydro, monohydrochloride (synthesis as described in WO96/14844 or in Journal of Medicinal Chemistry (1998), 41(9), 1361-1366) in 390 mL of ethanol was added 72.4 g (524.1 mmol) of potassium carbonate. The reaction mixture was stirred at room temperature for 10 min, 101.7 g (524.1 mmol) of ethyl 3-(4-pyrimidinyl)-3-oxopropionate was added and the resulting mixture was stirred under reflux for 16 h. The cooled solution was evaporated to remove solvent. The mixture was dissolved in dichloromethane, washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and evaporated to dryness. The residue was filtrate through a pad of silica, rinsing with dichloromethane and then ethyl acetate. After evaporation, the resulting solid was triturated in diethyl ether, filtrated to afford 36.4 g (28%) of the desired compound as a white-brown powder.

reactant | 2H-azepin-7-amine | 524.1 mmol, 77.9 g | N=1CC=CC=CC1N | C6H8N2
reactant | monohydrochloride | Cl | ClH
reactant | potassium carbonate | 524.1 mmol, 72.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-(4-pyrimidinyl)-3-oxopropionate | 524.1 mmol, 101.7 g | N1=CN=C(C=C1)C(CC(=O)OCC)=O | C9H10N2O3
solvent | ethanol | 390 mL | C(C)O | C2H6O
product | 2-Pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one | 36.4 g, 28% | N1=CN=C(C=C1)C=1N=C2N(CCCCC2)C(C1)=O | C13H14N4O
